US08614234B2
A mixture of 5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid (500 mg, 1.1 mmol), HATU (500 mg, 1.32 mmol) and N,N-diisopropylethylamine (426 mg, 3.3 mmol) in anhydrous DMF (8 ml) was stirred at room temperature for 10 minutes, followed by addition of L-Glutamic acid 5-tert-butyl 1-methyl ester hydrochloride (334 mg, 1.32 mmol). The mixture was stirred for another 10 minutes and poured into 200 ml of water. 2M HCl was added dropwise until pH=5. The precipitates were filtered, washed with water and dried in vacuo to give the crude, which was purified by silica gel chromatography eluting with 3˜5% MeOH/CHCl3 to give (S)-5-tert-butyl 1-methyl 2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}pentanedioate as off-white solid. Yield: 380 mg, 52%.

reactant | 5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid | 1.1 mmol, 500 mg | FC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=CC1NC(=O)NC1=CC(=CC=C1)C | C24H19FN4O4
reactant | HATU | 1.32 mmol, 500 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.3 mmol, 426 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | L-Glutamic acid 5-tert-butyl 1-methyl ester hydrochloride | 1.32 mmol, 334 mg | Cl.COC([C@@H](N)CCC(=O)OC(C)(C)C)=O
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | (S)-5-tert-butyl 1-methyl 2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}pentanedioate | FC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)N[C@H](C(=O)OC)CCC(=O)OC(C)(C)C)C=CC1NC(=O)NC1=CC(=CC=C1)C | C34H36FN5O7
